Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
quinidine / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Chest burning with L arm numbness
 
Major Surgical or Invasive Procedure:
s/p CABGx5(___->LAD, SVG->OM1, OM2, PDA, Diag) ___

 
History of Present Illness:
___ w/ hx of CAD, HTN, HL, afib/flutter on coumadin p/w ___ years 
worsening chest pain previously attributed to reflux adn 
responsive to omeprazole and worsening over the past 3 months 
with associated radiation of pain into jaw and arm, worse with 
exertion.  Patient had an abnormal thallium stress test with 
infralateral wall ischemia but normal EF on ___, was brouugh to 
the cath lab and found to have 80% LM disease, mid LAD diasease, 
ostial lesion of the ramus, a small non-domninant LCx, and and 
occluded RCA with collateral vascularization.  His LVEDP was 10. 
He will remain on ___ until his CABG being medically optimized.

On the floor, patient is comfortable and chest pain free.  
Pleasant and awaiting surgical eval.

 
Past Medical History:
PAST MEDICAL HISTORY:  
1. CARDIAC RISK FACTORS: +hypertension, +dyslipidemia
2. CARDIAC HISTORY:  
- CABG:  None
- PERCUTANEOUS CORONARY INTERVENTIONS:  Cath ___ years prior w/ 
60% LCx - medically managed
- PACING/ICD:  None
3. OTHER PAST MEDICAL HISTORY:  
Afib/flutter on coumadin - stopped since ___
Peripheral vascular disease 
Restrictive lung disease 
Carotid artery disease without cerebral infarction ___ ___ 
stenosis on US on ___
Hyperplastic colon polyp 
Coronary artery disease-s/p CABG
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: 97.5 143/66 78 16 97% on RA 
GENERAL: WDWN male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with unappreciable JVP
CARDIAC: RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. R radial access site w/o hematoma, intact 
neuro exam.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  

 
Pertinent Results:
CARDIAC CATH ___:
* Left Main Coronary Artery
The LMCA is heavily calcified and has a >80% distal stenosis at 
the trifurcation of the LAD, Cx, and ramus.
* Left Anterior Descending
The LAD is large and calcified and has a 75% mid vessel 
stenosis.
The ___ Diagonal is without significant stenoses.
* Circumflex
The Circumflex is small and diffusely diseased distally.
The ___ Marginal is without significant stenosis.
* Ramus
The Ramus has an 80% ostial stenosis and is a relatively large 
vessel.
* Right Coronary Artery
The RCA is heavily calcified and appears to be occluded at the 
ostium.  The distal vessel fills via left-to-right collaterals 
and is large in caliber
The Right PDA is free of stenoses.

TEE ___:
Findings  
LEFT ATRIUM: No spontaneous echo contrast in the body of the ___ 
___. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: No ASD by 2D or color Doppler. 

LEFT VENTRICLE: Mild symmetric LVH. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal aortic diameter at the sinus level. Normal 
ascending aorta diameter. Simple atheroma in descending aorta. 

AORTIC VALVE: Mildly thickened aortic valve leaflets (3). No AS. 
Trace AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. Moderate 
(2+) MR. 

___ VALVE: Mild [1+] TR. 

PERICARDIUM: No pericardial effusion. 

GENERAL COMMENTS: Written informed consent was obtained from the 
patient. The patient was under general anesthesia throughout the 
procedure. No TEE related complications. The patient appears to 
be in sinus rhythm. Results were personally reviewed with the MD 
caring for the patient.  
Conclusions  
Prebypass
No spontaneous echo contrast is seen in the body of the left 
atrium or left atrial appendage. No atrial septal defect is seen 
by 2D or color Doppler. There is mild symmetric left ventricular 
hypertrophy. Right ventricular chamber size and free wall motion 
are normal. There are simple atheroma in the descending thoracic 
aorta. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. Trace aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. Moderate 
(2+) mitral regurgitation is seen. There is no pericardial 
effusion. Dr. ___ was notified in person of the 
results on ___ at 1345. 

Post bypass
No sign of aortic injury or dissection. EF 55%. No new wall 
motion abnormalities. MR now ___. Exam otherwise unchanged from 
prior.   

___ 04:48AM BLOOD WBC-5.4 RBC-2.92* Hgb-9.7* Hct-26.7* 
MCV-92 MCH-33.2* MCHC-36.3* RDW-13.6 Plt ___
___ 03:08AM BLOOD WBC-5.6 RBC-2.93* Hgb-9.4* Hct-27.1* 
MCV-92 MCH-32.0 MCHC-34.7 RDW-13.5 Plt ___
___ 05:19AM BLOOD WBC-7.3 RBC-3.09* Hgb-10.1* Hct-28.7* 
MCV-93 MCH-32.7* MCHC-35.2* RDW-13.7 Plt ___
___ 05:30AM BLOOD WBC-6.4 RBC-3.09* Hgb-10.0* Hct-28.7* 
MCV-93 MCH-32.3* MCHC-34.8 RDW-13.3 Plt ___
___ 04:48AM BLOOD ___
___ 03:08AM BLOOD ___
___ 05:19AM BLOOD ___ PTT-30.1 ___
___ 05:30AM BLOOD ___
___ 01:28AM BLOOD ___ PTT-43.7* ___
___ 04:48AM BLOOD Glucose-126* UreaN-20 Creat-0.6 Na-138 
K-3.8 Cl-99 HCO3-31 AnGap-12
___ 03:08AM BLOOD Glucose-115* UreaN-21* Creat-0.6 Na-134 
K-3.7 Cl-96 HCO3-31 AnGap-11
___ 05:19AM BLOOD Glucose-125* UreaN-19 Creat-0.6 Na-135 
K-4.1 Cl-97 HCO3-31 AnGap-11
___ 05:30AM BLOOD Glucose-126* UreaN-17 Creat-0.5 Na-136 
K-3.9 Cl-101 HCO3-31 AnGap-8
___ 01:28AM BLOOD Glucose-140* UreaN-15 Creat-0.6 Na-141 
K-4.4 Cl-107 HCO3-25 AnGap-___ w/ CAD and chest pain admitted for cath abnormal stress test 
by cardiologist, had L heart cath on ___ which showed 3-vessel 
disease, requiring urgent CABG. Patient was started on a heparin 
gtt and optimized medically prior to consulting cardiac surgery. 
Cardiac surgery workup was expeditiously completed and patient 
was made NPO prior to surgery.
The patient was admitted to the hospital and brought to the 
operating room on ___ where the patient underwent CABG x 
5(LIMA->LAD, SVG->OM1, OM2, PDA, Diag).  Overall the patient 
tolerated the procedure well and post-operatively was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring.  Vancomycin and Kefzol were used for 
surgical antibiotic prophylaxis.  POD 1 found the patient 
extubated, alert and oriented and breathing comfortably.  The 
patient was neurologically intact and hemodynamically stable on 
no inotropic or vasopressor support.  Beta blocker was initiated 
and the patient was gently diuresed toward the preoperative 
weight. The patient was transferred to the telemetry floor for 
further recovery. Chest tubes and pacing wires were discontinued 
without complication. The patient did have a small stable right 
pneumothorax after chest tubes were pulled. The patient was 
evaluated by the physical therapy service for assistance with 
strength and mobility. He became hypotensive and tachycardic 
working with ___ on POD4.  Lopressor was titrated up for better 
rate control. He should follow up with cardiologist regarding 
restarting Digoxin (on preop) for rate control.  This was not 
restarted as Lopressor was being titrated up. By the time of 
discharge on POD 5 the patient was ambulating freely, the wound 
was healing and pain was controlled with oral analgesics. POD5 
he cleared ___. The patient was discharged home with visiting 
nurse services in good condition with appropriate follow up 
instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Atenolol 75 mg PO DAILY 
3. Digoxin 0.25 mg PO DAILY 
4. Warfarin 5 mg PO DAILY16 
5. Amlodipine 5 mg PO DAILY 
6. Gemfibrozil 600 mg PO BID 
7. Simvastatin 40 mg PO QPM 
8. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
9. Omeprazole 20 mg PO DAILY 
10. Aspirin 81 mg PO DAILY 
11. Hydrochlorothiazide 12.5 mg PO DAILY 
12. Multivitamins 1 TAB PO DAILY 
13. Fish Oil (Omega 3) 1000 mg PO DAILY 
14. Docusate Sodium 100 mg PO BID:PRN constipation 

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Multivitamins 1 TAB PO DAILY 
4. Omeprazole 20 mg PO DAILY 
___  MD to order daily dose PO DAILY 
target INR ___. Acetaminophen 650 mg PO Q4H:PRN pain/fever  
7. Bisacodyl ___AILY:PRN constipation 
8. Furosemide 20 mg PO DAILY Duration: 2 Weeks 
RX *furosemide [Lasix] 20 mg 1 tablet(s) by mouth daily Disp 
#*14 Tablet Refills:*0
9. Metoprolol Tartrate 75 mg PO TID 
RX *metoprolol tartrate 50 mg 1.5 tablet(s) by mouth three times 
a day Disp #*120 Tablet Refills:*1
10. Simvastatin 40 mg PO QPM 
RX *simvastatin 40 mg 1 tablet(s) by mouth Q ___ Disp #*30 Tablet 
Refills:*0
11. Milk of Magnesia 30 ml PO DAILY 
12. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth q 
4 hours Disp #*90 Tablet Refills:*0
13. Potassium Chloride 20 mEq PO DAILY Duration: 2 Weeks 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*14 Tablet Refills:*0
14. Gemfibrozil 600 mg PO BID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Carotid artery disease (pt denies)
Coronary Artery Disease- s/p CABG
Restrictive lung disease
PVD, Occlusion of bilateral superficial femoral arteries
Hypertension
Hyperlipidemia
Atrial flutter/Afib s/p cardioversion in ___, most recently
in atrial flutter, on Coumadin 
Erectile dysfunction
Right middle lobe lung nodule, stable
Venous insufficiency (compression stockings for right leg)
GERD

 
Discharge Condition:
Alert and oriented x3 nonfocal  
Ambulating with steady gait 
Incisional pain managed with Percocet 
Incisions:  
Sternal - healing well, no erythema or drainage  
Leg Left - healing well, no erythema or drainage. Right lower 
extremity with chronic skin changes 
Edema: 1+ bilat pedal 
 

Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with Percocet
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Left - healing well, no erythema or drainage. Right lower 
extremity with chronicn skin changes
Edema: 1+ bilat pedal
 

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___